US05356904
1-[1-{4-[5-(4-Amino-1-piperidinyl)pentyloxy]benzoyl}-4-piperidinyl]-3,4-dihydrocarbostyril (0.6 g) and acetic anhydride (0.2 ml) are dissolved in dichloromethane (20 ml), and thereto are added triethylamine (0.56 ml) and 1,4-dimethylaminopyridine (20 mg), and the mixture is stirred at room temperature overnight. Water is added to the reaction mixture and the mixture is extracted with chloroform, dried over sodium carbonate, and purified by silica gel column chromatography (eluent; dichloromethane:methanol=20:1) to give 1-[1-{4-[5-(4-acetylamino-1-piperidinyl)pentyloxy]benzoyl}-4-piperidinyl]-3,4-dihydrocarbostyril (310 mg) as colorless oil.

reactant | 1-[1-{4-[5-(4-Amino-1-piperidinyl)pentyloxy]benzoyl}-4-piperidinyl]-3,4-dihydrocarbostyril | 0.6 g | NC1CCN(CC1)CCCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C31H42N4O3
reactant | acetic anhydride | 0.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | 1,4-dimethylaminopyridine | 20 mg | CNN1CC=C(C=C1)NC | C7H13N3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 1-[1-{4-[5-(4-acetylamino-1-piperidinyl)pentyloxy]benzoyl}-4-piperidinyl]-3,4-dihydrocarbostyril | 310 mg | C(C)(=O)NC1CCN(CC1)CCCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C33H44N4O4
